US06982274B2
tert-Butyl 5-(azidomethyl)-3-(3-fluorophenyl)-1H-1-indazolecarboxylate
To a solution of 600 mg of tert-butyl 5-(chloromethyl)-3-(3-fluorophenyl)-1H-1-indazolecarboxylate produced in Production Example I-24-b in 4 ml dimethyl sulfoxide was added 162 mg of sodium azide, and the mixture was stirred at room temperature for 50 minutes. To the reaction mixture was added 25 ml of diethyl ether. The mixture was sequentially washed with water (×3) and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 571 mg of the title compound as pale yellow crystals.

reactant | tert-butyl 5-(chloromethyl)-3-(3-fluorophenyl)-1H-1-indazolecarboxylate | 600 mg | ClCC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C19H18ClFN2O2
reactant | sodium azide | 162 mg | [N-]=[N+]=[N-].[Na+]
reactant | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
product | tert-Butyl 5-(azidomethyl)-3-(3-fluorophenyl)-1H-1-indazolecarboxylate | 571 mg | N(=[N+]=[N-])CC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C19H18FN5O2
